US05270289
2-(4,6-Dimethoxy-2-pyrimidinyloxy)-3-fluoro-3-methylbutanoic acid
2 g (6.9 mmol) Methyl 2-(4,6-dimethoxy-2-pyrimidinyloxy)-3-fluoro-3-methylbutanoate was dissolved in a mixture of 20 ml water and 10 ml methanol and treated with 387 mg (6.9 mmol) potassium hydroxide. After stirring for 4 hours at 50° C., the mixture was added to 50 ml water and extracted with 50 ml ethyl acetate. The aqueous phase was acidified with hydrochloric acid until it was pH 2 and extracted with three lots of 100 ml ethyl acetate. The combined ethyl acetate phase was washed with water, dried over magnesium sulphate, filtered and evaporated.

reactant | Methyl 2-(4,6-dimethoxy-2-pyrimidinyloxy)-3-fluoro-3-methylbutanoate | 6.9 mmol, 2 g | COC1=NC(=NC(=C1)OC)OC(C(=O)OC)C(C)(C)F | C12H17FN2O5
reactant | potassium hydroxide | 6.9 mmol, 387 mg | [OH-].[K+]
solvent | water | 20 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 2-(4,6-Dimethoxy-2-pyrimidinyloxy)-3-fluoro-3-methylbutanoic acid | COC1=NC(=NC(=C1)OC)OC(C(=O)O)C(C)(C)F | C11H15FN2O5
